US05364871
A mixture of 2-(acetylaminomethyl)-6-bromoacetylpyridine (50.0 g) and diaminomethylenethiourea (15.3 g) in ethanol (400 ml) was stirred at 40° to 50° C. for 2 hours. The solvent was removed by concentration in vacuo. To the residue was added a mixture of water, ethyl acetate and tetrahydrofuran, and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (85:15, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was triturated with a mixture of ethyl acetate and diisopropyl ether to give 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (18.73 g).

reactant | 2-(acetylaminomethyl)-6-bromoacetylpyridine | 50.0 g | C(C)(=O)NCC1=NC(=CC=C1)C(CBr)=O | C10H11BrN2O2
reactant | diaminomethylenethiourea | 15.3 g | NC(N)=NC(=S)N | C2H6N4S
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 18.73 g | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C12H14N6OS
